US06329397B1
To a solution of 4-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.1 g, 3.9 mmol) in 20 mL of methanol was added sodium borohydride (0.14 9, 3.9 mmol) at 0° C. After stirring for 2 h at 0° C., the mixture was diluted with ethyl acetate, washed with 1M HCl, 1M NaOH, and brine, dried over Na2SO4, filtered and concentrated. The residue was taken up in 10 mL of 6M aqueous HCl and was refluxed for 4 h. After cooling to room temperature, the mixture was concentrated in vacuo, and the residue was dissolved in 5.5 mL of anhydrous DMF. The solution was cooled to 0° C. and was treated with triethylamine (4.8 mL, 34 mmol) and 4-benzyloxy-benzenesulfonyl chloride (2.5 g, 8.8 mmol). After stirring for 2 h, the mixture was diluted with 1M HCl, extracted 3× with ethyl acetate, and the organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was filtered through a small pad of silica gel eluting with 1:1 ethyl acetate-hexane, affording 0.43 g of 5-(4-benzyloxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3one as a colorless solid.

reactant | 4-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 3.9 mmol, 1.1 g | COC(=O)C1N(CCC(C1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | sodium borohydride | 3.9 mmol | [BH4-].[Na+]
reactant | triethylamine | 34 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxy-benzenesulfonyl chloride | 8.8 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1M | Cl | ClH
product | 5-(4-benzyloxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3one | 0.43 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1C2C(OC(C1)CC2)=O | C19H19NO5S
